US08236963B2
Intermediate 44: tert-Butyl (5-chloro-2,3-dioxo-2,3-dihydro-1H-indol-1-yl)acetate (cf. Scheme 7b, compound VIIIb)
According to the general procedure as outlined above for the synthesis of intermediate 43, f 5-chloroisatin, compound VIII, (10.0 g, 55.07 mmol) was reacted with potassium carbonate (9.89 g, 5.03 mmol) and tert-butyl bromoacetate (8.95 ml, 60.58 mmol) in N,N-dimethylformamide (100 ml) to give the title compound (12.14 g, 75%) as orange solid (HPLC purity: 99%) after precipitation from water. MS (ESI−): 294.2

reactant | 5-chloroisatin | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | potassium carbonate | 5.03 mmol, 9.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 60.58 mmol, 8.95 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | tert-Butyl (5-chloro-2,3-dioxo-2,3-dihydro-1H-indol-1-yl)acetate | 12.14 g, 75% | ClC=1C=C2C(C(N(C2=CC1)CC(=O)OC(C)(C)C)=O)=O | C14H14ClNO4
